US06291423B1
Triphenylphosphine (2.52 g; 9.62 mmol) is added portionwise to a vigorously stirred solution of oleyl alcohol (1.00 g; 3.72 mmol; Fluka, 99%) and tetrabromomethane (1.61 g; 4.84 mmol) in acetonitrile (15 ml) at 0° C. The heterogeneous medium is stirred for 1 h at room temperature. The supernatant is then transferred into a round-bottomed flask and the residual paste is triturated with ether (10 ml) and then filtered. The combined organic solutions are concentrated under reduced pressure to give a colorless oil which is purified by chromatography on a column of silica gel (eluent: hexane) to give oleyl bromide (1.21 g; 98%) in the form of a colorless oil.

reactant | Triphenylphosphine | 9.62 mmol, 2.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | oleyl alcohol | 3.72 mmol, 1.00 g | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | tetrabromomethane | 4.84 mmol, 1.61 g | BrC(Br)(Br)Br | CBr4
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | oleyl bromide | 1.21 g, 98% | C(CCCCCCC\C=C/CCCCCCCC)Br | C18H35Br
